US06797820B2
To (2S,3R)-3-(n-butyl)-2-hydroxysuccinic dimethyl ester F-3 in methanol (28 mL) was added a solution of NaOH (2.2 g, 55 mmol) in water (28 mL). After 24 h the MeOH was removed, the crude reaction was acidified with HCl (6N, 12 mL) to pH=1, and then extracted with ethyl acetate (3×50 mL). The combined organic layers were dried (Na2SO4) and concentrated to give (2S,3R)-3-(n-butyl)-2-hydroxysuccinic acid F-4 (1.96 g, 90%).

reactant | (2S,3R)-3-(n-butyl)-2-hydroxysuccinic dimethyl ester | COC([C@H]([C@H](C(=O)OC)CCCC)O)=O | C10H18O5
reactant | NaOH | 55 mmol, 2.2 g | [OH-].[Na+]
reactant | HCl | 6N, 12 mL | Cl | ClH
solvent | methanol | 28 mL | CO | CH4O
solvent | water | 28 mL | O | H2O
product | (2S,3R)-3-(n-butyl)-2-hydroxysuccinic acid | C(CCC)[C@H]([C@@H](C(=O)O)O)C(=O)O | C8H14O5
